* ============================================================================
* IRF7309 - PHASE 1 STATIC DATASHEET VALIDATION, TJ = 25 C
* Datasheet: International Rectifier / Infineon PD-9.1243B
* No half-bridge, dead-time, frequency, capacitance or gate-charge tests here.
* ============================================================================
.temp 25
.lib ../IRF7309_N.txt
.lib ../IRF7309_P.txt

* Gate threshold: VDS=VGS, |ID|=250 uA.
I_NTH 0 n_th 250u
M_NTH n_th n_th 0 0 IRF7309_N
I_PTH p_th 0 250u
M_PTH p_th p_th 0 0 IRF7309_P

* N-channel RDS(on): 10 V / 2.4 A and 4.5 V / 2.0 A.
V_NG10 n_g10 0 10
I_NR10 0 n_r10 2.4
M_NR10 n_r10 n_g10 0 0 IRF7309_N
V_NG45 n_g45 0 4.5
I_NR45 0 n_r45 2.0
M_NR45 n_r45 n_g45 0 0 IRF7309_N
B_NR10 n_r10_ohm 0 V={abs(V(n_r10)/2.4)}
B_NR45 n_r45_ohm 0 V={abs(V(n_r45)/2.0)}

* P-channel RDS(on): -10 V / -1.8 A and -4.5 V / -1.5 A.
V_PG10 p_g10 0 -10
I_PR10 p_r10 0 1.8
M_PR10 p_r10 p_g10 0 0 IRF7309_P
V_PG45 p_g45 0 -4.5
I_PR45 p_r45 0 1.5
M_PR45 p_r45 p_g45 0 0 IRF7309_P
B_PR10 p_r10_ohm 0 V={abs(V(p_r10)/1.8)}
B_PR45 p_r45_ohm 0 V={abs(V(p_r45)/1.5)}

* Off-state drain leakage at |VDS|=24 V, VGS=0.
V_NLEAK n_leak 0 24
M_NLEAK n_leak 0 0 0 IRF7309_N
B_NLEAK n_leak_abs 0 V={abs(I(V_NLEAK))}
V_PLEAK p_leak 0 -24
M_PLEAK p_leak 0 0 0 IRF7309_P
B_PLEAK p_leak_abs 0 V={abs(I(V_PLEAK))}

* Body diodes at |IS|=1.8 A, VGS=0.
I_NDIO n_dio 0 1.8
M_NDIO n_dio 0 0 0 IRF7309_N
I_PDIO 0 p_dio 1.8
M_PDIO p_dio 0 0 0 IRF7309_P

.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.tran 0 20u 0 50n

.meas TRAN N_VTH_MIN AVG V(n_th) FROM=15u TO=20u
.meas TRAN N_VTH_MAX AVG V(n_th) FROM=15u TO=20u
.meas TRAN P_VTH_MIN AVG V(0,p_th) FROM=15u TO=20u
.meas TRAN P_VTH_MAX AVG V(0,p_th) FROM=15u TO=20u
.meas TRAN N_RDS_10V_MAX AVG V(n_r10_ohm) FROM=15u TO=20u
.meas TRAN N_RDS_4V5_MAX AVG V(n_r45_ohm) FROM=15u TO=20u
.meas TRAN P_RDS_10V_MAX AVG V(p_r10_ohm) FROM=15u TO=20u
.meas TRAN P_RDS_4V5_MAX AVG V(p_r45_ohm) FROM=15u TO=20u
.meas TRAN N_IDSS_25C_MAX AVG V(n_leak_abs) FROM=15u TO=20u
.meas TRAN P_IDSS_25C_MAX AVG V(p_leak_abs) FROM=15u TO=20u
.meas TRAN N_VSD_MAX AVG V(0,n_dio) FROM=15u TO=20u
.meas TRAN P_VSD_MAX AVG V(p_dio) FROM=15u TO=20u
.end
